US08492372B2
(−)/(+)-N-BENZYL-N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE
N-methyl-1-[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine (1.05 g, 4.1 mmol), benzylbromide (0.49 ml, 4.1 mmol), potassium carbonate (0.68 g, 4.9 mmol) and ACN (20 ml) were heated at 50° C. for 12 h. EtOAc was added, the reaction mixture was filtered and concentrated. Purification by flash chromatography (isooctane/EtOAc 1:2) afforded the title compound (0.91 g). 1H-NMR (400 MHz, MeOH): δ 7.38 (1H, dd, J 8.4 Hz, J2 1.6), δ 7.28-7.14 (7H, m), δ 5.17 (1H, t, J 4.0 Hz), δ 4.90 (2H, dd, J 52.0 Hz, J2 19.6 Hz), δ 3.59 (2H, dd, J 18.4 Hz, J2 13.2 Hz), δ 2.99 (3H, s), δ 2.78-2.67 (2H, m), δ 2.29 (3H, s). Chiral separation was performed according to Preparation 16. The flow rate was 30 ml/min. Repeated injections (˜40 mg) every 7-8 min. Totally 25 injections afforded the two different enantiomers. The first eluted peak consisted of (−)-N-benzyl-N-methyl-1-{[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine (0.37 g, >95% e.e.). The second eluted peak consisted of (+)-N-benzyl-N-methyl-1-{[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine (0.37 g, >95% e.e.).

reactant | N-methyl-1-[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methanamine | 4.1 mmol, 1.05 g | CNCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C11H15NO4S
reactant | benzylbromide | 4.1 mmol, 0.49 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.9 mmol, 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | ACN | 20 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (+)-N-BENZYL-N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE | 0.91 g | C(C1=CC=CC=C1)N(CC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C)C | C18H21NO4S
